US07884203B2
20 g Sucralose-6-acetate was dissolved in 150 ml methanol, and the pH value of the solution was adjusted into 11 with KOH. The reaction was kept at 45° C. for 4 hours, then decolored with activated carbon, filtered and the filtrate was concentrated. 6 ml Water was added to the concentrate in 70° C. The resulting solution was Cooled gradually to room temperature and kept standing, then Filtered to obtain the product sucralose, 12.3 g. It was verified that the purity was over 99%.

reactant | Sucralose-6-acetate | 20 g | CC(=O)OC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CCl)O)O)CCl)O)O)Cl | C14H21Cl3O9
reactant | KOH | [OH-].[K+]
solvent | methanol | 150 ml | CO | CH4O
product | sucralose | C([C@H]1[C@@H]([C@@H]([C@@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CCl)O)O)CCl)O)O)Cl)O | C12H19Cl3O8
